2128-01-26 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-25**]
   - neuro recs-
   - hep serologies sent
   - ultra sound wet read- No evidence of cholecystitis. 6 mm echogenic
   lesion in the right lobe of the liver, most likely reflects a
   hemangioma. No biliary dilatation.
   - tube feeds held due to elevated lipase
   - bacitracin/polymyxin ointment ordered for conjunctivitis
   - started keppra, d/c'd dilantin, per neuro recs; will obtain 20 min
   EEG
   HPI:
   62 yo M admitted with AMS after being discharged yesterday from
   neurosurgical service.  He was admitted on [**1-9**] from [**Location (un) **] s/p fall
   down a flight of stairs and had an moderate SDH, also with bilateral
   wrist fractures.
   Hospital course then c/b an NSTEMI that was medically managed.  He had
   persistent AMS (lethargic, but opening eyes) and trach and PEG were
   placed.  Per d/c summary, his MS never improved as it should have based
   on his objective imaging.  The day prior to discharge family reports he
   was more lethargic and had low grade fevers.  Also had thick trach
   secretions that were sent for cx day of discharge.
   He went to the [**Hospital1 1939**] yesterday and per family, never really woke
   up.  He was transferred back to [**Hospital1 1**] ED this morning at 8am.
   In the ED: T:102.8 (rectal) BP:116/66 HR:80-100's RR:15-22 100% on 50%
   trach mask (baseline).  CT head was unchanged.  CXR showed old ?
   retrocardiac opacity seen on CXR on [**1-22**].  UA negative.  Some drainage
   around PEG tube.  Labs with leukocytosis to 11.7 and left shift.  Given
   vanco, aztreonam and levo for hospital-acquired PNA. RUQ u/s ordered.
   EKG with new LBBB but CE negative, felt to be result of NSTEMI from
   prior hospitalization.
   On arrival to the ICU patient is awake and alert, unable to speak given
   trach.  Does not follow commands or appear to understand his daughter
   who translates for team.
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-25**] 08:16 PM
   Meropenem - [**2128-1-26**] 05:36 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-26**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 87 (81 - 99) bpm
   BP: 106/60(70) {95/54(64) - 116/74(82)} mmHg
   RR: 35 (24 - 41) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                  3,199 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                  1,829 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    880 mL
   Urine:
                                                                  2,450 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   742 K/uL
   9.2 g/dL
   99 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   13 mg/dL
   98 mEq/L
   130 mEq/L
   26.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
   WBC
   11.0
   11.5
   9.3
   Hct
   25.7
   26.3
   26.8
   Plt
   [**Telephone/Fax (3) 10970**]
   Cr
   0.4
   0.5
   0.4
   TCO2
   28
   Glucose
   110
   106
   99
   Other labs: PT / PTT / INR:13.4/33.5/1.1, ALT / AST:248/175, Alk Phos /
   T Bili:161/0.4, Amylase / Lipase:92/125, Differential-Neuts:85.1 %,
   Lymph:8.4 %, Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:288 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 LIVER FUNCTION ABNORMALITIES
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FRACTURE, OTHER
   bilateral fx wrist [**12-21**]
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FRACTURE, OTHER
   bilateral fx wrist [**12-21**]
   # AMS: Highest on ddx is infection
 mostly likely pulm given exam.
   Also consider biliary source with rising transaminitis which was check
   on prior admission [**1-16**] but not followed - was in 50's, now in 200's.
   Patient also had thick secretions day of discharge from trach but now
   no e/o PNA on imaging and cx from secretions was oral
   flora/contaminated. Other contributing factors to unresolved AMS
   include hyponatremia at 127 which is also new. Per discharge summary
   from yesterday, MS exam was 'lethargic but arousable'.  Per d/c summ,
   patient's objective imaging findings do not fully explain significant
   decline in mental status. MRI obtained at last hospitalization with e/o
   small strokes but neurology didn't feel that they were the cause of his
   AMS. Repeat imaging today shows no new bleeding.
   - cover broadly with vanco, aztreonam, levo for pulm source
   - called micro [**Last Name (LF) **], [**First Name3 (LF) 116**] add on sensitivities of N. meningit and
   speciation of GNR and GPR
   - UA negative
   - f/u ED blood cx
   - correct hyponatremia as below
   - neuro c/s in am
   # Fever: 102.8 rectally, no hypotension, sating well on 50% FiO2.
   Likely [**1-13**] PNA given thick secretions, rhonchi on exam and CXR with
   ill-defined retrocardiac opactiy unchanged from CXR seen day prior to
   discharge.
   - abx and RUQ as above
   - daily blood cx until afebrile
   - tylenol prn
   # Transaminitis: Unclear duration.  Was in 50's on [**1-16**], now in 200's,
   no elevation in bili.  Abd exam with....
   - RUQ u/s to eval bil tree
 PFI with no ductal dilation
   - cover with broad abx as above with aztrenoam for gram neg (allergic
   to PCN) and flagyl for anerobes
   - consider CT A/P to better eval in am
   - check amylase/lipase, trend
   - send hep serologies
   - trend
   # Respiratory Alkalosis:  Slightly tachypnic, gas with good
   oxygenation.  Could be [**1-13**] pulmonary process given retrocardiac opacity
   - abx as above
   - trend gases
   # Thrombocytosis:  Likely acute phse reactant given probable
   infection.  Was trending up prior to discharge, with leukocytosis but
   no labs checked the 2 days prior to d/c so more difficult to assess.
   - trend
   - abx as above
   # Anemia: Baseline in high 30's, was 30 on discharge yesterday. Likely
   [**1-13**] acute illness.
   - trend
   - active T & S
   # Hyponatremia:  Given normal Na yesterday, likely too much free water
   at rehab
   - NS bolus, free water restrict
   # LBBB: Old, seen intermittently per cards note.  Cardiac enzymes
   negative.  Likely [**1-13**] NSTEMI on last admission vs rate ralated
   - will ROMI
   - tele
   - on Plavix for TiA
s in past
 not indication for use, will hold for
   now and talk with family
   #  Bilateral Wrist Fracture: Sustained in fall.  In casts.  Will FYI
   ortho in am.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-01-26 10:54:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -cont sig secretion
   -episodes facial twitching
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2128-1-26**] 05:36 AM
   Vancomycin - [**2128-1-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-26**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 77 (77 - 99) bpm
   BP: 99/57(67) {98/54(66) - 120/74(82)} mmHg
   RR: 24 (24 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                  3,199 mL
                                                                    504 mL
   PO:
             TF:
   IVF:
                                                                  1,829 mL
                                                                    504 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                  1,060 mL
   Urine:
                                                                  2,450 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    749 mL
                                                                   -556 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, purulent drainage
   aoround PEG site
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   742 K/uL
   99 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   13 mg/dL
   98 mEq/L
   130 mEq/L
   26.8 %
   9.3 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
   WBC
   11.0
   11.5
   9.3
   Hct
   25.7
   26.3
   26.8
   Plt
   [**Telephone/Fax (3) 10970**]
   Cr
   0.4
   0.5
   0.4
   TCO2
   28
   Glucose
   110
   106
   99
   Other labs: PT / PTT / INR:13.4/33.5/1.1, ALT / AST:248/175, Alk Phos /
   T Bili:161/0.4, Amylase / Lipase:92/125, Differential-Neuts:85.1 %,
   Lymph:8.4 %, Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:288 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
    # AMS:
   -worsening from poor baseline
   -HOH and does not speak English - d/w family where pt is vs. baseline
   -no seizure activity noted
   -EEG to r/o NCSE
   -infection, hyponatremia likely contributors
   -repeat CT head
   -neuro consulted
   -correct hyponatremia, treat infection
   # ? Infection:
   -afebrile now, wbc nl
   -PEG site infection, PNA most likely sources
   -BCx
   # Hyponatremia
   -improved vs. yesterday
   -? neuro
   # ? PEG site infection
   - consult gen [**Doctor First Name **] (place at [**Hospital1 1**] while on NS service)
   # Transaminitis:
   -trending down
   - RUQ u/s - no ductal dilation. 6mm lesion noted on echo
   # Thrombocytosis:
   - ? acute phase reactant
   # Anemia:
   #  Bilateral Wrist Fracture:
   -Sustained in fall - b/l casts
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2128-01-27 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EKG changes with new STE in inferior leads, cards called. Given
   normal CE and ?pt report of CP, rec'd ASA/Plavix, Pravastatin and BB.
   So started all but Pravastatin given LFTs. D/C'd heparin gtt. No plans
   for Cath lab, etio of EKG changes unclear
   - neuro [**Doctor First Name **] okay with heparin gtt if indicated by cards, but would
   want a repeat head CT in 24 hours after it started
   - head CT read: Stable
   - EEG result: not done yet
   - Daily EKGs for now
   - Neuro recs: Keppra and Phenobarb + EEG
   - Pending nutrition recs for tubefeeds; gen [**Doctor First Name **] okay'd PEG tube feeds,
   will come throw stitch in to stop drainage this AM
   - CE X4 flat
   - PICC ordered given poor PIV access with bilateral casts, IV meds
   - Trial with PMV - trach too large, will need downsizing. Continues to
   secrete copious, foul smelling secretions from trach
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2128-1-26**] 08:00 AM
   Meropenem - [**2128-1-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2128-1-26**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-27**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 77 (62 - 87) bpm
   BP: 113/62(74) {99/54(65) - 123/67(80)} mmHg
   RR: 24 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                    840 mL
                                                                    168 mL
   PO:
             TF:
   IVF:
                                                                    840 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    700 mL
   Urine:
                                                                  2,340 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,500 mL
                                                                   -532 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   * ?Improved mental status
 smiles, answers yes/ no vs. lethargic and
   opening eyes only
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   787 K/uL
   10.2 g/dL
   98 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   12 mg/dL
   101 mEq/L
   134 mEq/L
   30.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
                             [**2128-1-26**]  12:30 PM
                             [**2128-1-26**]  05:40 PM
                             [**2128-1-27**]  03:25 AM
   WBC
   11.0
   11.5
   9.3
   7.7
   Hct
   25.7
   26.3
   26.8
   30.1
   Plt
   [**Telephone/Fax (3) 10986**]87
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   0.01
   TCO2
   28
   Glucose
   110
   106
   99
   95
   98
   Other labs: PT / PTT / INR:12.6/30.0/1.1, CK / CKMB /
   Troponin-T:57/2/0.01, ALT / AST:234/150, Alk Phos / T Bili:166/0.3,
   Amylase / Lipase:92/98, Differential-Neuts:85.1 %, Lymph:8.4 %,
   Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:249 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   62 yo M visiting from [**Country 2482**] w/ h/o Parietal Lobe infarct, pineal
   schwannoma, Seizure disorder, TIAs admitted with altered mental status
   after being discharged the prior from neurosurg service (admitted [**1-9**]
   from [**Location (un) **] s/p fall down flight of stairs with moderate SDH and
   bilateral wrist fractures). Last hospital course complicated by NSTEMI
   that was medically managed. Continues to have altered mental status
   (lethargic, but opening eyes and answers yes/no) which per family was
   unchanged from day of discharge. Also presented with thick, fould
   smelling trach secretions.
   # AMS: Infection vs residual effect of head injury. Had event possibly
   c/w seizure activity on night of admission. Has known sz d/o, VP shunt.
   - Covered with Vanco and [**Last Name (un) 1540**] for now (Day 3)
   - Appreciate Neurology recs: Will continue with phenobarb and Keppra
   - Appreciate Neurosurgery following
   - EEG X20 minutes ordered, will follow-up on results
   - Continue Thiamine, Folate, Multivitamin
   # Fever: Afebrile since arrival to ED.  Likely [**1-13**] PNA given thick
   secretions, rhonchi on exam and CXR with ill-defined retrocardiac
   opacity.
   - abx
   - daily blood cx until afebrile
   - tylenol prn
   # PEG tube: Leaking purulence (vs tube feeds), indurated.
   - Appreciate Gen [**Doctor First Name 3**] recs, who do not feel it is infected and will
   suture around it today
   - Will obtain culture of leakage prior to suturing
   - Nutrition consult in place for tube feed resumption
   # Transaminitis: Unclear duration and etiology.  Was in 50's on [**1-16**],
   now in 200's, no elevation in bili.  Normal ultrasound. Could be [**1-13**]
   Dilantin which has since been discontinued
   - Holding statin
 will try to resume with Pravastatin
   - Viral hepatitis serologies:
   - Continue to trend
   # EKG changes: Had LBBB on admit, concerning ST elevations on EKGs
   yesterday morning. Cardiology saw patient
 no clear etiology for EKG
   changes but cardiac enzymes WNL, ?asymptomatic, plan for conservative
   medical management for now
   - Continue on telemetry
   - Aspirin, Plavix, beta blocker (low dose) started
   - Will try to resume Statin today
   # Thrombocytosis:  Likely acute phase reactant.
   - Will continue to trend
   # Hyponatremia: Mild, persists. Could be SIADH s/p head injury
   - Continue to monitor for now
   #  Bilateral Wrist Fracture: Sustained in fall.  In casts.
   - Ortho aware
   - Will place PICC today given poor peripheral IV access with bilateral
   casts and likely 2 week course of antibiotics
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ANEMIA, OTHER
 LIVER FUNCTION ABNORMALITIES
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FRACTURE, OTHER
   bilateral fx wrist [**12-21**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-01-28 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2128-1-27**] 08:10 AM
 PICC LINE - START [**2128-1-27**] 12:01 PM
 EKG - At [**2128-1-27**] 12:10 PM
   - PICC in place
   - EEG: mild encephalopathy R>L
   - ID consult in AM
   - wrist films: right fine; left shows new mild ulnar positive variance,
   increased vertical lucency along the medial and lateral aspects distal
   radius. Ortho aware
   - neuro recs: could tap shunt or do LP but they don't feel strongly at
   all given abx already on board
   - generic tube feeds started, need changed per nutrition recs
   - met with family, they need a letter for State Dep't
   - Touched base with infection control; aware of pt from prior
   admission, nothing for us to do re: N. meningiditis in sputum
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2128-1-27**] 12:00 AM
   Cefipime - [**2128-1-27**] 01:28 PM
   Vancomycin - [**2128-1-27**] 09:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 82 (73 - 103) bpm
   BP: 112/56(70) {101/54(65) - 128/73(84)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                  1,060 mL
                                                                    173 mL
   PO:
             TF:
                                                                     10 mL
                                                                    102 mL
   IVF:
                                                                    990 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    560 mL
   Urine:
                                                                  1,470 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -410 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Minimal drainage around PEG
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed, Wiggling right fingers/toes in response to stimuli
   Labs / Radiology
   743 K/uL
   9.7 g/dL
   114 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.0 mEq/L
   14 mg/dL
   98 mEq/L
   131 mEq/L
   28.5 %
   8.3 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
                             [**2128-1-26**]  12:30 PM
                             [**2128-1-26**]  05:40 PM
                             [**2128-1-27**]  03:25 AM
                             [**2128-1-27**]  01:50 PM
                             [**2128-1-28**]  03:11 AM
   WBC
   11.0
   11.5
   9.3
   7.7
   8.3
   Hct
   25.7
   26.3
   26.8
   30.1
   28.5
   Plt
   [**Telephone/Fax (3) 10986**]87
   743
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   0.01
   <0.01
   TCO2
   28
   Glucose
   110
   106
   99
   95
   98
   114
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:52/2/<0.01, ALT / AST:174/93, Alk Phos / T Bili:150/0.2,
   Amylase / Lipase:92/98, Differential-Neuts:85.1 %, Lymph:8.4 %,
   Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:249 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: [**1-27**] Wrist films: Casts are in place bilaterally, obscuring
   fine bony detail.
     On the right, alignment is unchanged compared with [**2128-1-19**], with
   equivocal
   minimal callus formation.
     On the left, the current exam shows mild ulnar positive variance,
   which is new and could reflect some interval impaction along the
   fracture site. There is probably increased vertical lucency along the
   medial and lateral aspects of the distal radius, suggesting interval
   dispersion of the fracture fragments. Clinical correlation is
   requested. Faint callus formation is noted.
   [**1-27**] CXR: In comparison with the earlier study of this date, there has
   been placement of a right subclavian PICC line that extends to the
   lower portion of the SVC. This information has been telephoned to
   [**Doctor Last Name 1094**], a venous access nurse, at her request.
   Microbiology: [**1-25**] Sputum (1): Upper respiratory contimination
   [**1-25**] Sputum (2):>25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
   OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Final [**2128-1-27**]):  HEAVY GROWTH Commensal
   Respiratory Flora.
   [**1-24**] BCx: NGTD x2
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 TRANSFERS, IMPAIRED
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ANEMIA, OTHER
 LIVER FUNCTION ABNORMALITIES
 PNEUMONIA, ASPIRATION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 FRACTURE, OTHER
   bilateral fx wrist [**12-21**]
   62M visiting from [**Country 2482**] w/ h/o Parietal Lobe infarct, pineal
   schwannoma, remote VP shunt, Seizure d/o, TIAs admitted with AMS,
   foul-smelling thick trach secretions, after recent d/c from neurosurg
   (s/p fall down stairs with SDH and bilateral wrist fractures). Prior
   hospital course c/b NSTEMI medically managed. Continued AMS which per
   family was unchanged from day of discharge.
   # AMS: Per family he is asking questions, aware of surroundings. Seems
   to be poorly following commands this AM. Infection vs residual effect
   of head injury. Had event possibly c/w seizure activity on night of
   admission. Has known sz d/o, VP shunt, b/l left-facial droop. Treat for
   infection, for seizure. Question of Meropenem raising sz d/o. Given
   Neisseria in sputum cx, concern for meningitis, but value of LP
   questionable this far into abx therapy. Cefepime and Vanc at meningitic
   doses, risk of crossreactivity with his PCN allergy noted.
   - Day 4 of Vanco and Meropenem
   - Stop [**Last Name (un) 1540**], start Cefepime
   - Continue with phenobarb and Keppra
   - Appreciate Neurosurgery following
   - f/u EEG
   - Continue Thiamine, Folate, Multivitamin
   # Fever & Trach Secretions: Afebrile since arrival.  Likely PNA given
   thick secretions, rhonchi on exam and CXR with ill-defined retrocardiac
   opacity.
   - abx as above
   - f/u cx
   - call infection control re N Meningitidis in lung sputum cx
   # PEG tube: Per surgery leaking tube feeds not purulence, safe to use.
   - Nutrition consult for tube feed
   # Transaminitis: Stable since yesterday. Unclear duration and
   etiology.  Was in 50's on [**1-16**], now in 200's.  Normal ultrasound. Could
   be [**1-13**] Dilantin or to Statin, both of which discontinued
   - Viral hepatitis serologies
   - Continue to trend
   # EKG changes: Had ST elevations inferior leads on EKG yesterday
   morning. Cardiology saw patient
 no clear etiology for EKG changes but
   cardiac enzymes WNL, ?asymptomatic, plan for conservative medical
   management for now
   - Continue on telemetry
   - Aspirin, Plavix, beta blocker (low dose)
   # Hyponatremia:
   # Thrombocytosis:  Likely acute phase reactant.
   - Will continue to trend
   # Hyponatremia: Resolving. Could be SIADH s/p head injury.
   - Continue to monitor
   #  Bilateral Wrist Fracture: Sustained in fall.  In casts.
   - Ortho aware
   - f/u films
   # FEN:
   # Access: PICC & PIV x2
   # Communication:
   # Code: FULL
   # Dispo: ICU pending improvement of above
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2128-1-27**] 11:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   PICC Line - [**2128-1-27**] 12:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-29 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2128-1-29**] 12:46 AM
   [**1-28**]:
   - Ortho: Attending saw pt, casts look good, no operative plans, will
   follow. Should bring wrist films to their attention, given some new
   findings; should also ask them what his long-term plan for fractures
   should be
   - Wrote letter in OMR for patient's son, confirming patient's prolonged
   stay in hospital and likely rehab
   - Changed tube feeds per NUT recs, decreased free H20 flushes for
   hyponatremia
   - Changed aspirin from PR -> PO
   - Phenobarbital trough: 4.7 (ref range 10-40); increased dose to 90 mg
   daily (recommended maintenance: 1-3 mg/kg/day)
   - EEG report: pending
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2128-1-27**] 12:00 AM
   Vancomycin - [**2128-1-28**] 08:28 PM
   Cefipime - [**2128-1-29**] 12:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-29**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.5
   HR: 89 (74 - 102) bpm
   BP: 99/57(67) {99/57(67) - 128/73(86)} mmHg
   RR: 27 (18 - 31) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                  1,944 mL
                                                                    531 mL
   PO:
                                                                    120 mL
             TF:
                                                                    705 mL
                                                                    355 mL
   IVF:
                                                                    879 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    660 mL
   Urine:
                                                                  1,575 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   775 K/uL
   9.9 g/dL
   136 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   99 mEq/L
   133 mEq/L
   29.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
                             [**2128-1-26**]  12:30 PM
                             [**2128-1-26**]  05:40 PM
                             [**2128-1-27**]  03:25 AM
                             [**2128-1-27**]  01:50 PM
                             [**2128-1-28**]  03:11 AM
                             [**2128-1-29**]  03:25 AM
   WBC
   11.0
   11.5
   9.3
   7.7
   8.3
   9.1
   Hct
   25.7
   26.3
   26.8
   30.1
   28.5
   29.9
   Plt
   [**Telephone/Fax (3) 11033**]
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   0.01
   <0.01
   TCO2
   28
   Glucose
   110
   106
   99
   95
   98
   114
   136
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:52/2/<0.01, ALT / AST:157/91, Alk Phos / T Bili:152/0.3,
   Amylase / Lipase:92/98, Differential-Neuts:85.1 %, Lymph:8.4 %,
   Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:281 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 ANEMIA, OTHER
 LIVER FUNCTION ABNORMALITIES
 PNEUMONIA, ASPIRATION
 FRACTURE, OTHER
   bilateral fx wrist [**12-21**]
   Assessment and Plan: 62M visiting from [**Country 2482**] w/ h/o Parietal Lobe
   infarct, pineal schwannoma, remote VP shunt, Seizure d/o, TIAs admitted
   with AMS, foul-smelling thick trach secretions, after recent d/c from
   neurosurg (s/p fall down stairs with SDH and bilateral wrist
   fractures). Prior hospital course c/b NSTEMI medically managed.
   Continued AMS which per family was unchanged from day of discharge.
   # AMS: Improved slightly today
tracking across room, following
   commands. Infection vs residual effect of head injury vs seizure
   activity. Has known sz d/o, VP shunt, left-facial droop. Given
   Neisseria in sputum cx, concern for meningitis, but value of LP
   questionable this far into abx therapy. Cefepime and Vanc at meningitic
   doses, risk of crossreactivity with his PCN allergy noted.
   - Touch base with neuro and neurosurg re: value of obtaining CSF for
   analysis (plan on deferring CSF sampling for now)
   - C/w vanco (day 1=[**1-24**]), cefepime (day 1=[**1-27**])
 will assess for
   duration of course needed for concurrent treatment of pneumonia and
   possible meningitis
   - Continue with phenobarb and Keppra
   - f/u EEG
   - Continue Thiamine, Folate, Multivitamin
   # Fever & Trach Secretions: Persistently afebrile. Fewer secretions,
   continues to have rhonchi on exam. Imaging concerning for CAP vs HAP.
   Discussed case with infection control (recent sputum culture positive
   for neisseiria meningiditis); they are familiar with him from prior
   admission and there is nothing for them or us to do regarding culture.
   - abx as above
   - f/u cx and trend WBC, fevers etc.
   # PEG tube: Continues to have small amounts of drainage. Per surgery,
   leaking tube feeds not purulence, safe to use.
   - Nutrition consult for tube feed entered
   # Transaminitis: LFT
s continue to trend down. Per neuro, possibly [**1-13**]
   Dilantin or to Statin, both of which discontinued
   - Viral hepatitis serologies negative
   - Continue to trend
   # EKG changes: Had ST elevations inferior leads on EKG yesterday
   morning. No clear etiology for EKG changes but cardiac enzymes WNL,
   ?asymptomatic, plan for conservative medical management for now
   - Continue on telemetry
   - Aspirin, Plavix, beta blocker (low dose)
   - avoiding statins at this time given elevated liver enzymes
   (improving)
   # Hyponatremia: Need to monitor closely, given altered mental status.
   Mild decrease, in setting of ongoing D5W flushes for tube feeds.
   Alternatively SIADH [**1-13**] head injury.
   - Will decrease free water flushes
   - Monitor lytes
   - If worsens/persists, will send serum osms, urine studies to better
   characterize hyponatremia
   # Thrombocytosis:  Likely acute phase reactant.
   - Will continue to trend
   #  Bilateral Wrist Fracture: Sustained in fall.  In casts.
   - Ortho aware; will touch base re: long-term plan
   - f/u films
   - Continue working with Physical Therapy
   # FEN: Tube feeds. Replete lytes PRN
   # Access: PICC & PIV x1
   # Communication: Wife, daughter
   # [**Name2 (NI) 129**]: FULL
   # Dispo: ICU pending improvement of above
 called out to transfer to
   floor
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-1-28**] 09:43 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   PICC Line - [**2128-1-27**] 12:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-29 12:16:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2128-1-29**] 12:46 AM
   No major clinical events
   Seen by ortho -- no need for operative intervention
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   Iodine
   swelling;
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2128-1-27**] 12:00 AM
   Vancomycin - [**2128-1-29**] 08:00 AM
   Cefipime - [**2128-1-29**] 09:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   [**Year (4 digits) 11037**], vanco, bacitracin, keppra, clopidogrel, thiamine, folate,
   metoprolol, cefepime, [**Last Name (LF) 11037**], [**First Name3 (LF) **], morphine prn for pain
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-29**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98
   HR: 84 (74 - 102) bpm
   BP: 107/65(75) {99/57(67) - 128/73(86)} mmHg
   RR: 29 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 68.5 kg (admission): 68.8 kg
   Height: 68 Inch
             Total In:
                                                                  1,944 mL
                                                                  1,144 mL
   PO:
                                                                    120 mL
             TF:
                                                                    706 mL
                                                                    604 mL
   IVF:
                                                                    879 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    920 mL
   Urine:
                                                                  1,575 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    369 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   775 K/uL
   136 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   14 mg/dL
   99 mEq/L
   133 mEq/L
   29.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2128-1-24**]  11:21 PM
                             [**2128-1-25**]  02:37 AM
                             [**2128-1-25**]  04:15 PM
                             [**2128-1-26**]  03:27 AM
                             [**2128-1-26**]  12:30 PM
                             [**2128-1-26**]  05:40 PM
                             [**2128-1-27**]  03:25 AM
                             [**2128-1-27**]  01:50 PM
                             [**2128-1-28**]  03:11 AM
                             [**2128-1-29**]  03:25 AM
   WBC
   11.0
   11.5
   9.3
   7.7
   8.3
   9.1
   Hct
   25.7
   26.3
   26.8
   30.1
   28.5
   29.9
   Plt
   [**Telephone/Fax (2) 11033**]
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   0.5
   0.4
   TropT
   <0.01
   <0.01
   <0.01
   0.01
   <0.01
   TCO2
   28
   Glucose
   110
   106
   99
   95
   98
   114
   136
   Other labs: PT / PTT / INR:13.7/30.6/1.2, CK / CKMB /
   Troponin-T:52/2/<0.01, ALT / AST:157/91, Alk Phos / T Bili:152/0.3,
   Amylase / Lipase:92/98, Differential-Neuts:85.1 %, Lymph:8.4 %,
   Mono:5.1 %, Eos:0.9 %, Albumin:2.4 g/dL, LDH:281 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   62-year-old man with complex neurologic history (including VP shunt),
   s/p recent trauma admission with wrist fractures and SDH, now with
   ongoing encephalopathy felt most likely related to SDH/infection
   (pneumonia).  Appreciate neurology
s help.  On antiepileptics.  At this
   point, I think that CSF sampling risks outweigh benefits since he has
   been on antibiotics for several days and therapy similar.  Present ABX
   also adequate therapy for HCAP.  Transaminitis presumptively attributed
   to Dilantin or statin, but if recurs will need follow-up and
   potentially further evaluation.  For acute myocardial infarction, we
   are treating medically (given risk of bleeding if taken to cath, as
   well as likelihood of not finding an intervenable culprit lesion).
   Wrist fractures are being followed by ortho, whose help is
   appreciated.  Anticipate conservative management.
   Ready for transfer to the floor.
   Communication with wife, who participated in ICU rounds today.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2128-1-29**] 07:16 AM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-25**] 12:41 AM
   PICC Line - [**2128-1-27**] 12:01 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor